US05670665
3a) 4-Amino-2,2-difluoro-benzo(1.3)dioxole
68 g (250 mmol) of 5,6-dichloro-4-nitro-2,2-difluoro-benzo(1.3)dioxole, 69 g (500 mmol) of potassium carbonate and 5 g of palladium-carbon (10% strength) are stirred at 50° C. and a hydrogen pressure of 90 bar in 500 ml of methanol in an autoclave for 20 hours. The reaction mixture is filtered, the filtrate is mixed with 500 ml of water and extracted thoroughly with ether, the extract is dried over sodium sulphate and the ether is removed in a rotary evaporator. By distillation, 35 g (81% of theory) of 4-amino-2,2-difluoro-benzo(1.3)dioxole are obtained having a boiling point of 84° to 86° C./16 mm and a refractive index of nD21 : 1.4995.

reactant | 5,6-dichloro-4-nitro-2,2-difluoro-benzo(1.3)dioxole | 250 mmol, 68 g | ClC1=C(C2=C(OC(O2)(F)F)C=C1Cl)[N+](=O)[O-] | C7HCl2F2NO4
reactant | potassium carbonate | 500 mmol, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | palladium-carbon | 5 g | [C].[Pd]
product | 4-Amino-2,2-difluoro-benzo(1.3)dioxole | NC1=CC=CC=2OC(OC21)(F)F | C7H5F2NO2
